US05834434
4-nitro-2-phenyltoluene
2-bromo-4-nitrotoluene (2.16 g, 10.00 mmol) and phenyl boric acid (1.46 g, 12.00 mmol) were dissolved into anhydrous DMF (25 ml) under nitrogen. To this mixture was added Pd(Ph3P)4 (0.58 g, 5%). The mixture was heated at 100° C. overnight. The solution was poured onto 1N HCl and extracted with Et2O. The crude material was chromatographed on silica gel using hexanes as an eluent. After recrystallization from ethanol, 1.23 g (57.6%) of pale orange needles were obtained. mp 69°-71° C.; 1H NMR (CDCl3) 2.36 (3 H, s), 7.29-7.40 (2 H, m), 7.41-7.49 (5 H,m), 8.07-8.10 (2 H, m); 13C NMR (CDCl3) 20.68, 121.96, 124.51, 127.78, 128.41, 128.83, 131.06, 139.44, 142.97, 143.48, 146.05; anal calc. for C13H11NO2 C:73.26, H:5.20, N:6.57; found, C:73.10, H:5.12, N:6.50; m/ z (EI) 213; HRMS calc. for C13H11NO2, 213.0790; found, 213.0793.

reactant | 2-bromo-4-nitrotoluene | 10.00 mmol, 2.16 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | phenyl boric acid | 12.00 mmol, 1.46 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | HCl | 1N | Cl | ClH
catalyst | Pd(Ph3P)4 | 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-nitro-2-phenyltoluene | 1.23 g, 57.6% | [N+](=O)([O-])C1=CC(=C(C=C1)C)C1=CC=CC=C1 | C13H11NO2
